US05053415
A solution of 2-nitro-4-methylphenol (11.48 g) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) (50 ml) was cooled at 5° C. and treated with portions of sodium hydride (55% w/w dispersion in mineral oil, 3.27 g). The mixture was stirred at room temperature for 2 hours, then cooled to 5° C. and treated with ethyl 2-bromo-2-methylpropionate (13.15 g). The mixture was heated at about 100° C. for 18 hours, then cooled to room temperature and poured into a mixture of aqueous sodium hydroxide solution (1M) and ethyl acetate. The organic solution was separated and washed twice with 1M sodium hydroxide solution, then dried (MgSO4) and concentrated. The resulting oil was purified by flash column chromatography, eluting with a mixture of ethyl acetate and hexane, (increasing from 5:95 v/v to 10:90 v/v), to give ethyl 2-methyl-2-(2-nitro-4-methylphenoxy)propionate (4.48 g) as an oil; NMR: 1.25 (3H, t), 1.60(6H, s), 2.35(3H, s), 4.25(2H, q) and 6.8-7.6(3H, m).

reactant | 2-nitro-4-methylphenol | 11.48 g | [N+](=O)([O-])C1=C(C=CC(=C1)C)O | C7H7NO3
reactant | sodium hydride | 3.27 g | [H-].[Na+]
reactant | ethyl 2-bromo-2-methylpropionate | 13.15 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 50 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-methyl-2-(2-nitro-4-methylphenoxy)propionate | 4.48 g | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H17NO5
